US04826852
Piperidine-1-thiocarboxylic acid (6-methyl-8α-ergolinyl)amide;
1-(4-Fluorophenyl)-3-(6-methyl-8α-ergolinyl)thiourea, L-tartrate; 81% of theory; mp 260° C. (decomposition).

reactant | 1-(4-Fluorophenyl)-3-(6-methyl-8α-ergolinyl)thiourea | FC1=CC=C(C=C1)NC(=S)N[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C22H23FN4S
reactant | L-tartrate | C(=O)([O-])[C@H](O)[C@@H](O)C(=O)[O-]
product | Piperidine-1-thiocarboxylic acid (6-methyl-8α-ergolinyl)amide | CN1C[C@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC(=S)N3CCCCC3 | C21H28N4S
